US05866576
A mixture of N-(11,10-dihydroxyundecyl)piperidine (2.0 g, 7.4 mmol) and a 30% solution of hydrogen bromide in acetic acid (4.45 mL, 22 mmol) was stirred for 90 minutes. The mixture was then added to a flask containing aqueous sodium bicarbonate solution (15 g in 40 mL ) and dichloromethane (50 mL). After 10 minutes of vigorous stirring, the layers were separated and the aqueous portion extracted with dichloromethane (2×50 mL). The combined organic portions were dried over sodium sulfate. The solvent was evaporated to give 1-(10-acetoxy-11-bromoundecyl)piperidine which was used without further purification. Bromoacetate was dissolved in methanol (10 mL) and treated with a 1M solution of sodium methoxide (8 mL). After 30 minutes, the reaction mixture was added to water (30 mL) and extracted with dichloromethane (3×50 mL). The organic extracts were combined, washed with water (25 mL) and brine solution (25 mL) and then dried over anhydrous magnesium sulphate solution and concentrated under reduced pressure. The crude product obtained was further purified by column chromatography over alumina (grade-II) using 10% methanol/ethyl acetate eluant to yield 1.5 g (80.6%) N-(9,10-Oxidodecyl)piperidine.

reactant | N-(11,10-dihydroxyundecyl)piperidine | 7.4 mmol, 2.0 g | OCC(CCCCCCCCCN1CCCCC1)O | C16H33NO2
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 22 mmol, 4.45 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 40 mL, 15 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(10-acetoxy-11-bromoundecyl)piperidine | C(C)(=O)OC(CCCCCCCCCN1CCCCC1)CBr | C18H34BrNO2
